US07666888B2
4-Benzyl-1-{[5-(4-methylphenyl)isoxazol-4-yl]carbonyl}piperidine
The title compound was prepared from 5-(4-methylphenyl)isoxazole-4-carboxylic acid (10.2 mg, 0.050 mmol) and 4-benzylpiperidine (10.5 mg, 0.060 mmol) as described in synthetic method B and thereafter purified by preparative HPLC method B to give a solid (11.5 mg). Calcd for C23H24N2O2: 360.1838, found 360.1842.

reactant | 5-(4-methylphenyl)isoxazole-4-carboxylic acid | 0.050 mmol, 10.2 mg | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)O | C11H9NO3
reactant | 4-benzylpiperidine | 0.060 mmol, 10.5 mg | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
product | 4-Benzyl-1-{[5-(4-methylphenyl)isoxazol-4-yl]carbonyl}piperidine | C(C1=CC=CC=C1)C1CCN(CC1)C(=O)C=1C=NOC1C1=CC=C(C=C1)C | C23H24N2O2
